US07429665B2
4-[3-(4-Benzyloxy-phenyl)-1-(2,2,2-trifluoro-ethyl)-1H-pyrazol4-yl]-pyridine
To a solution of 4-[3-(4-Benzyloxy-phenyl)-1H-pyrazol-4-yl]-pyridine (0.42 g) in dimethyl formamide (7 ml) was added cesium carbonate (0.65 g) and 1,1,1-Trifluoro-2-iodo-ethane (0.29 ml). The reaction mixture was heated at 60° C. for 24 h, poured into water and extracted 3× with dichloromethane. Purification via biotage MPLC chromatography, eluting with 5% methanol/0.5% ammonium hydroxide/70% ethyl acetate/hexane provided the title compound. MS: (M+H m/z=410.0).

reactant | 4-[3-(4-Benzyloxy-phenyl)-1H-pyrazol-4-yl]-pyridine | 0.42 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C1=NNC=C1C1=CC=NC=C1 | C21H17N3O
reactant | cesium carbonate | 0.65 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 1,1,1-Trifluoro-2-iodo-ethane | 0.29 ml | FC(CI)(F)F | C2H2F3I
reactant | water | O | H2O
solvent | dimethyl formamide | 7 ml | CN(C=O)C | C3H7NO
product | 4-[3-(4-Benzyloxy-phenyl)-1-(2,2,2-trifluoro-ethyl)-1H-pyrazol4-yl]-pyridine | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C1=NN(C=C1C1=CC=NC=C1)CC(F)(F)F | C23H18F3N3O
